* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4696.asc
* Generated by LTspice 24.1.9 for Windows.
V_RESET RESET 0 PULSE(0 1.8 10u 10n 10n 10n 1 1)
V_REF N001 0 5
V_VDD N003 0 1.8
RREF REF N001 1
CREF REF 0 1µF
V_CNV CNV 0 PULSE(0 1.8 110u 10n 10n 10n {t_cnv})
A1 vsample 0 in0_sampled 0 0 0 vsampled_in0 0 SAMPLEHOLD
C2 vsampled_in0 0 1p
C6 vsample 0 1p
A4 vsample 0 in1_sampled 0 0 0 vsampled_in1 0 SAMPLEHOLD
C8 vsampled_in1 0 1p
V_SLCT0 N004 0 PULSE(0 1.8 {110u+0.5*t_cnv} 10n 10n {t_cnv-20n} {t_cnv*2})
A3 CH_OUT0 0 0 0 0 in0_sampled in1_sampled 0 BUF td=400n trise = 1n
V_AVDD N002 0 5
V_SLCT1 N005 0 PULSE(0 1.8 {110u-0.5*t_cnv+2*t_cnv} 10n 10n {2*t_cnv-20n} {t_cnv*4})
V_SLCT2 N006 0 PULSE(0 1.8 {110u-0.5*t_cnv+4*t_cnv} 10n 10n {4*t_cnv-20n} {t_cnv*8})
R4 IN7 VS7 {Rext} noiseless
C5 IN7 0 {Cext}
V4 VS7 0 4.8
R9 IN6 VS6 {Rext} noiseless
C12 IN6 0 {Cext}
V9 VS6 0 4.2
R3 IN5 VS5 {Rext} noiseless
C4 IN5 0 {Cext}
V3 VS5 0 3.6
R10 IN4 VS4 {Rext} noiseless
C13 IN4 0 {Cext}
V10 VS4 0 3
R11 IN3 VS3 {Rext} noiseless
C14 IN3 0 {Cext}
V11 VS3 0 2.4
R12 IN2 VS2 {Rext} noiseless
C15 IN2 0 {Cext}
V12 VS2 0 1.8
R13 IN1 VS1 {Rext} noiseless
C16 IN1 0 {Cext}
V13 VS1 0 1.2
R14 IN0 VS0 {Rext} noiseless
C17 IN0 0 {Cext}
V14 VS0 0 0.6
X§U1 IN0 IN1 IN2 IN3 IN4 IN5 IN6 IN7 0 N004 N005 N006 0 CH_OUT0 NC_09 NC_10 vsample RESET CNV N003 N002 N002 REF REF AD4696 OSR=1 SEQ_EN=0 CNV_FREQ_NOISE=0 CNV_CH_NOISE=0 COM_OPT=0
* Simulation Setup
* Kickback Filter
.tran 0 {t_cnv*64+110u}
* OSR - Oversampling ratio\nSEQ_EN - Sequencer enable\nCNV_FREQ_NOISE - sampling frequency for noise analysis (must be 0 for transient simulations)\nCNV_CH_NOISE - sampled channel for noise analsis\nCOM_OPT: optional conversion reference COMM instead of REFGND\nHIZ: Input precharge enable
.param f_cnv=1Meg
.param t_cnv=1/f_cnv
.param Rext=4.12k
.param Cext=1n
* Sampling Frequency
* IN7 Channel RC Kickback Filter
* IN7 Channel Stimulus
* Part parameters:
* IN6 Channel RC Kickback Filter
* IN6 Channel Stimulus
* IN5 Channel RC Kickback Filter
* IN5 Channel Stimulus
* IN4 Channel RC Kickback Filter
* IN4 Channel Stimulus
* IN3 Channel RC Kickback Filter
* IN3 Channel Stimulus
* IN2 Channel RC Kickback Filter
* IN2 Channel Stimulus
* IN1 Channel RC Kickback Filter
* IN1 Channel Stimulus
* IN0 Channel RC Kickback Filter
* IN0 Channel Stimulus
* .noise v(vsample) V14 dec 100 0.001u 10000000\n.measure noise NOISERMS integ V(onoise) from 0.1 to 10Meg\n.measure noise NOISEFLCIK integ V(onoise) from 0.1 to 10
* Set the following text as SPICE directive for Noise Simulation
.lib AD4696.sub
.backanno
.end
