* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4858.asc
* Generated by LTspice 24.1.9 for Windows.
V3 N003 0 PULSE(0 1.8 2000n 10n 10n 20n 1000n)
V4 N001 0 4.096
V5 N002 0 5
V1 IN+ 0 PWL(0 -24 100u 24)
V2 IN- 0 PWL(0 24 100u -24)
C1 0 OUT 10p
V6 Vcc 0 PWL(0 0 0.5u 24)
V7 0 Vee PWL(0 0 0.5u 24)
X§U1 IN+ N002 0 OUT N001 N003 IN- Vcc Vee AD4858 Softspan=15 SHDR=1
.tran 110u
.lib AD4858.sub
.backanno
.end
