* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5423.asc
* Generated by LTspice 24.1.9 for Windows.
V1 0 N007 24
V2 N001 0 24
R1 N006 0 1k
R2 N002 0 1k
R3 0 N005 1k
R4 OUT N003 1k
V4 IN 0 PULSE(1 2 100u 1u 1u 1m)
R5 N004 OUT 10
R6 OUT 0 1k
X§U1 N001 N001 0 MP_01 MP_02 MP_03 N006 NC_04 N002 N002 MP_05 N007 N005 MP_06 N003 N004 IN AD5423 RANGE = 0, OVRNG_EN = 0, NEG_OFFSET_EN = 0 SR_EN = 0, SR_STEP = 0, SR_CLOCK = 0 VIOUT_PULLDOWN_EN = 0, HART_EN = 0
.tran 200u
.lib AD5423.sub
.backanno
.end
