* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD549.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
R2 OUT N001 1G
V2 -V 0 -15
X§U1 0 N001 +V -V OUT AD549
I1 0 N001 SINE(0 1n 1K)
C1 OUT N001 .1p
.tran 3m
.lib ADI1.lib
.backanno
.end
