* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5766.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 25
V2 N003 0 -25
V3 IN 0 PWL(0 0 100u 0 +1u 0.625 +100u 0.625 +1u 1.25 +100u 1.25 +1u 1.875 +100u 1.875 +1u 2.5)
I1 OUT 0 100µ
V5 N002 0 SINE(0.125 0.125 30k)
X§U2 IN N002 N001 N003 OUT 0 AD5766 Range=8 dither_scale=0 dither_inv=0
.tran 1m
* Dither with 0.125V offset and amplitude\nRange is one of {1,2,...,8}\ndither_scale is one of {0,1,2,3}\ndither_inv is one of {0,1}
.lib AD5766.sub
.backanno
.end
