* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5791.asc
* Generated by LTspice 24.1.9 for Windows.
X§U2 N003 N001 VDD VSS N002 AD8675
X§U3 N007 N009 VDD VSS N008 AD8675
V1 VDD 0 15
V2 VSS 0 -15
V3 N005 0 PWL(0 0 1m 1)
V4 N007 0 -10
V5 N003 0 10
X§U1 VDD VSS N006 N005 N002 N001 N008 N009 VOUT N004 0 AD5791
X§U4 N006 N004 VDD VSS VOUT AD8675
C1 VOUT N004 10p
Rload VOUT 0 1Meg
.tran 1m
* Connect a 0V to 1V signal to VDAC:\n- 0V corresposnds to code 0x00000 (zero scale code)\n- 1V corresponds to code 0xFFFFF (full scale code)
.lib AD5791.sub
.lib AD8675.sub
.backanno
.end
