* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD590.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 0
X§U1 IN 0 AD590
.dc V1 0 10 1m
.temp -55 25 150
.lib ADR.lib
.backanno
.end
