* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD630.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 NC_01 N001 0 NC_02 N001 MOD 0 CAR OUT N001 MOD OUT STATUS +VS -VS OUT AD630
V1 MOD 0 SINE(0 5 10k)
V2 CAR 0 PULSE(-1 1 5u 1n 1n 5u 10u)
V3 -VS 0 -15
V4 +VS 0 15
R3 OUT 0 2k
R4 +VS STATUS 100k
.tran 300u
.lib AD630.lib
.backanno
.end
