* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD637.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 0 0 RMSOUT DBOUT BUFFOUT VIN N001 N003 RMSOUT N002 AD637
CAV RMSOUT N002 4µ
V1 N001 0 18
V2 N003 0 -18
V4 VIN 0 SINE(0 1 1k)
.tran 2
.lib AD637.sub
.backanno
.end
