* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD706.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 N001 V+ V- OUT AD706
V1 V+ 0 5
V2 V- 0 -5
C1 OUT N002 0.15µ
R1 N003 N002 1Meg
R2 N002 IN 1Meg
C2 OUT N001 0.01µ
C3 N003 0 0.15µ
V3 IN 0 SINE(0 0.1 1)
R3 OUT N001 2Meg
.tran 10
.lib AD706.sub
.backanno
.end
