* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD734.asc
* Generated by LTspice 24.1.9 for Windows.
VX X 0 SINE(0 0.5 100k)
VY Y 0 SINE(0 0.5 110k)
X§U1 X 0 0 0 0 Y 0 N003 NC_01 W W N002 NC_02 N001 AD734
R3 W 0 2k
R4 N002 0 1Meg
V- N003 0 -15
V+ N001 0 15
.tran 100u
.lib AD734.lib
.backanno
.end
