* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD7380.asc
* Generated by LTspice 24.1.9 for Windows.
V3 N004 0 PULSE(0 3.3 100n .2n .2n 10n 250n)
V4 N001 0 3.3
V1 N002 0 PWL(0 0 100u 3.3)
R1 IN+ N002 10
V2 N003 0 PWL(0 3.3 100u 0)
R2 IN- N003 10
C1 0 Vout 10p
X§U1 N001 IN+ IN- Vout 0 N004 AD7380
.tran 110u
.lib AD7380.sub
.backanno
.end
