* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8018.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N004 N005 N003 0 Vp AD8018
X§U2 N008 N007 N012 0 Vp AD8018
R5 N005 N007 750
R7 N004 N005 750
R6 N008 N007 750
R8 N004 0 10k
R9 0 N008 10k
C2 N004 0 1n Rser=10 ic=2.5
C1 0 N008 1n Rser=10 ic=2.5
R4 N003 N002 100
R3 N012 N011 100
R1 N002 N006 10k
R2 N006 N011 10k
V3 N006 0 2.5
C3 N002 N001 0.01µ
C4 N011 N010 0.01µ
E1 N001 0 IN 0 1
E2 N010 0 IN 0 -1
V1 IN 0 SINE(0 100m 1k)
V2 Vp 0 5
L1 N004 N008 1m Rser=0.5 Rpar=10Meg
L2 N009 OUT 16m Rser=160 Rpar=10Meg
R11 OUT N009 100
R10 N009 0 10Meg
.tran 5m startup
K1 L1 L2 0.95
.lib AD8018.sub
.backanno
.end
