* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8038.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 PULSE(-1 1 20n 10n 10n 90n 200n 10)
R1 N001 0 2K
R2 OUT N001 2K
X§U1 IN N001 +V -V OUT AD8038
V1 +V 0 5
V2 -V 0 -5
.tran 2u
.lib ADI.lib
.backanno
.end
