* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8066.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 12
Vin IN 0 SINE(0 1 10Meg) Rser=50
R1 N001 0 499
R2 OUT N001 499
V2 -V 0 -12
Rload OUT 0 1K
R4 N002 IN 249
C1 OUT N001 2.2p
X§U1 N002 N001 +V -V OUT AD8066
.tran 1u
.lib ADI.lib
.backanno
.end
