* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8067.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 12
Vin N002 0 SINE(0 1 1Meg)
R1 N001 0 110
R2 OUT N001 1K
V2 -V 0 -12
Rload OUT 0 1K
R4 N003 N002 49.9
X§U1 N003 N001 +V -V OUT AD8067
.tran 10u
.lib AD8067.lib
.backanno
.end
