* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8091.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 SINE(0 1 10Meg)
R1 N001 0 1K
R2 OUT N001 1K
X§U1 IN N001 +V -V OUT AD8091
Rload OUT 0 2K
V1 +V 0 5
V2 -V 0 -5
.tran 1u
.lib ADI.lib
.backanno
.end
