* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD811.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 PULSE(-1 1 20n 10n 10n 90n 200n)
R1 N001 0 649
R2 OUT N001 649
X§U1 IN N001 +V -V OUT AD811
Rload OUT 0 150
V1 +V 0 15
V2 -V 0 -15
.tran 1u
.lib AD811.lib
.backanno
.end
