* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8137.asc
* Generated by LTspice 24.1.9 for Windows.
RL OUT- OUT+ 1k
G1 0 OUT_DIFF OUT- OUT+ -1m
R3 OUT_DIFF 0 1k
Vocm N004 0 0
VS1 N002 0 5
VS2 N005 0 -5
Vin IN 0 SINE(0 50m 100k)
RG1 N003 0 1k
RF1 OUT+ N003 1k
RG2 N001 IN 1k
RF2 OUT- N001 1k
X§U1 N001 N003 N002 N005 OUT+ OUT- N004 AD8137
.tran 20u
.lib AD8137.lib
.backanno
.end
