* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8139.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VCC 0 5
V2 VEE 0 0
V3 VOCM 0 2.5
R1 VOUTN N001 200
RL VOUTN VOUTP 1k
R2 N001 N002 200
R3 N003 N004 200
R4 VOUTP N003 200
X§U1 N001 N003 VOCM VCC VEE VOUTP VOUTN AD8139
V4 N002 N004 SINE(0 10m 1k) AC 1
V5 N004 0 2.5
.ac dec 20 1Meg 1G
.lib AD8139.lib
.backanno
.end
