* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8205.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
V2 N001 N002 SINE(0 10m 1K)
X§U1 N002 0 0 MP_01 OUT IN IN N001 AD8205
.tran 5m
.lib ADI.lib
.backanno
.end
