* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8222.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
Vin N001 N004 SINE(0 100m 10K)
R1 N002 N003 5.49K
V2 -V 0 -15
Rload OUT 0 10K
Vcm N004 0 1
Vref N005 0 .5
X§U1 N004 N002 N003 N001 -V N005 OUT +V AD8222
.tran 1m
.lib ADI1.lib
.backanno
.end
