* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8231.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +VS 0 {Vdd}
V2 REF 0 {Vdd/2}
R1 OUTA 0 10k
R2 OUTB 0 10k
V3 N001 REF 0 AC 1
V4 A0 0 {A0}
V5 A1 0 {A1}
V6 A2 0 {A2}
E1 NORM 0 OUTA 0 {1/Gain}
X§U1 REF N001 +VS REF OUTB OUTB REF OUTA 0 +VS A0 A1 A2 AD8231
.ac dec 20 100 10Meg
.param Vdd=5
.step param Gain list 1 2 4 8 16 32 64 128
* PGA gain control
.param A0 = Table({Gain}, 1, 0, 2, {Vdd}, 4, 0, 8, {Vdd}, 16, 0, 32, {Vdd}, 64, 0, 128, {Vdd})
.param A1 = Table({Gain}, 1, 0, 2, 0, 4, {Vdd}, 8, {Vdd}, 16, 0, 32, 0, 64, {Vdd}, 128, {Vdd})
.param A2 = Table({Gain}, 8, 0, 16, {Vdd})
.lib AD8231.lib
.backanno
.end
