* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8233.asc
* Generated by LTspice 24.1.9 for Windows.
C4 N003 N002 0.22µ
R2 IAOUT N003 10Meg Noiseless
R5 0 REFIN 10Meg Noiseless
C5 0 REFIN 0.1µ
C6 0 +VS 0.1µ Rpar=1G
R6 N001 N004 180k Noiseless
R7 N006 N007 180k Noiseless
Vin N001 N006 SINE(0 10m 1k) AC 1
Vs +VS 0 3
R8 N006 N005 10Meg Noiseless
R9 N005 N001 10Meg Noiseless
R4 +VS REFIN 10Meg Noiseless
V2 N008 0 1.5
R1 LOD 0 10Meg
V1 N005 0 3
R3 REFOUT 0 10Meg
VIN_OPAMP N009 0 SINE(1.5 10m 1k)
X§U1 0 +VS LOD OUT +VS 0 +VS OUT REFIN 0 REFOUT N009 N003 IAOUT N008 NC_01 N002 N004 N007 N008 AD8233
* .ac dec 10 0.1 10k
* .op
.tran 10m
* DC LOD:\nTwo-electrode set-up:\nConnect each input to +VS through 10Meg\nThree-electrode set-up:\nConnect -IN to GND through 10Meg and +IN to +VS through 10Meg
* AC_DC_BAR=GND: DC LOD\nAC_DC_BAR=+VS: AC LOD
* SDN_BAR=GND: IC OFF, LOD ON, FR ON\nSDN_BAR=+VS: IC ON, LOD ON, FR ON\n \nRLD_SDN_BAR=GND: RLD OFF\nRLD_SDN_BAR=+VS: RLD ON
* AD8233 Heart Rate Measurement (HRM) Next to the Heart
.lib AD8233.lib
.backanno
.end
